US04367238
Conc. hydrochloric acid (20 ml) and acetic acid (60 ml) were added to 2-[2-methoxy-3-(o-tolyloxy)phenyl]-2,2-dimethylacetonitrile (5.7 g), and the mixture was refluxed under heating for 48 hours. After cooling, the reaction mixture was evaporated. Saturated aqueous solution of sodium bicarbonate (100 ml) was added to the oily residue and warmed. After cooling, the mixture was extracted with ethyl acetate, and the extract was washed with water, dried and evaporated. The solid residue was purified by recrystallization from a mixture of ethanol and n-hexane to give 3,3-dimethyl-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one (2.5 g). mp 115°-117° C.

reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | 2-[2-methoxy-3-(o-tolyloxy)phenyl]-2,2-dimethylacetonitrile | 5.7 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C#N)(C)C | C18H19NO2
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3,3-dimethyl-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | 2.5 g | CC1(C(OC2=C1C=CC=C2OC2=C(C=CC=C2)C)=O)C | C17H16O3
